US08026377B2
Preparation of Methyl 4-[(4-methyl-3-oxopentanoyl)amino]benzoate of Formula IV
To a solution of methyl-4-aminobenzoate (250 g, 1.65 moles) in toluene (2.4 L) was added methyl-4-methyl-3-oxopentanoate (237.7 g, 1.648 moles) and ethylene diamine (1.15 ml, 0.016 moles). The reaction mixture was refluxed for about 20-25 hours. The solvent was removed under reduced pressure to obtain a solid residue. The residue was dissolved in ethyl acetate (2.4 L). The organic phase was washed with an acid (e.g., 20% w/w hydrochloric acid 0.5 L) followed by de-ionized water. It was further washed with a 10% sodium bicarbonate solution, followed by de-ionized water and saturated brine. The solvent was removed under reduced pressure. To this was added hexane while stirring and the solid precipitated out completely. The solid was filtered and washed with hexane. The solid was dried to yield the title product in 99.45% purity.

reactant | methyl-4-aminobenzoate | 1.65 moles, 250 g | COC(C1=CC=C(C=C1)N)=O | C8H9NO2
reactant | methyl-4-methyl-3-oxopentanoate | 1.648 moles, 237.7 g | COC(CC(C(C)C)=O)=O | C7H12O3
reactant | ethylene diamine | 0.016 moles, 1.15 ml | C(CN)N | C2H8N2
solvent | toluene | 2.4 L | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 2.4 L | C(C)(=O)OCC | C4H8O2
product | Methyl 4-[(4-methyl-3-oxopentanoyl)amino]benzoate | CC(C(CC(=O)NC1=CC=C(C(=O)OC)C=C1)=O)C | C14H17NO4
